US07300949B2
5.7.2 4-Tert-Butyl-2-(4-methyl-benzoylamino)-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid ethyl ester
4-Methyl-benzoyl isothiocyanate (4.5 ml, 29.5 mmol) was added neat, via syringe under N2 blanket, to a stirred solution of 5-amino-1-tert-butyl-1H-pyrrole-3-carboxylic acid ethyl ester (5.6 g, 26.6 mmol) in anhydrous THF (270 ml), and brought to reflux for 1.5 hours. The solution was chilled to 0° C., then neat N-iodosuccinimide (6.6 g, 29.3 mmol) was added, and the solution was allowed to stir and warm to ambient temperature overnight for 16 hours. Reaction was slowly poured into a stirred 10% (w/v) sodium metabisulfite aqueous solution (200 ml), then extracted with ethyl acetate, dried (MgSO4), and flash chromatographed (silica gel, 25% (v/v) EtOAc/hexanes). Isolated product was crystallized from ethyl acetate/hexanes to afford 4.2 g (41%) of white powder, mp. 200-201° C. MS:M+H=386.

reactant | 4-Methyl-benzoyl isothiocyanate | 29.5 mmol, 4.5 ml | CC1=CC=C(C(=O)N=C=S)C=C1 | C9H7NOS
reactant | 5-amino-1-tert-butyl-1H-pyrrole-3-carboxylic acid ethyl ester | 26.6 mmol, 5.6 g | C(C)OC(=O)C1=CN(C(=C1)N)C(C)(C)C | C11H18N2O2
reactant | N-iodosuccinimide | 29.3 mmol, 6.6 g | IN1C(CCC1=O)=O | C4H4INO2
reactant | sodium metabisulfite | 200 ml | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | THF | 270 ml | C1CCOC1 | C4H8O
product | 4-Tert-Butyl-2-(4-methyl-benzoylamino)-4H-pyrrolo[2,3-d]thiazole-6-carboxylic acid ethyl ester | 4.2 g, 41% | C(C)OC(=O)C1=CN(C=2N=C(SC21)NC(C2=CC=C(C=C2)C)=O)C(C)(C)C | C20H23N3O3S
